US07528124B2
Step 7-1: Synthesis of tert-butyl(2S,4S)-2-(azetidin-1-ylcarbonyl)-4-hydroxypyrrolidine-1-carboxylate
2.19 g of 1-hydroxybenzotriazole monohydrate and 2.49 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride were added under ice cooling to a 25 mL N,N-dimethylformamide solution of 2.50 g of (4S)-1-(tert-butoxycarbonyl)-4-hydroxy-L-proline and stirred for 30 minutes. 1.23 g of trimethyleneimine was added dropwise over a period of 1 minute to the reaction mixture, and the reaction mixture was stirred for 16 hours at room temperature. 30 mL of ethyl acetate and 20 mL of a 5% potassium carbonate aqueous solution were added to the reaction solution and stirred for 30 minutes. After liquid separation, the aqueous layer was extracted with ethyl acetate (50 mL×2), and the combined organic layer was washed with water (50 mL×3) and 50 mL of saturated brine, and then dried with anhydrous magnesium sulfate, after which the drying agent was filtered off, and the reaction mixture was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel 60, mobile phase: ethyl acetate) to obtain 2.81 g of the titled compound (pale yellow solid).

reactant | 1-hydroxybenzotriazole monohydrate | 2.19 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.49 g | Cl.C(C)N=C=NCCCN(C)C
reactant | (4S)-1-(tert-butoxycarbonyl)-4-hydroxy-L-proline | 2.50 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@@H](C1)O | C10H17NO5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | tert-butyl(2S,4S)-2-(azetidin-1-ylcarbonyl)-4-hydroxypyrrolidine-1-carboxylate | 2.81 g | N1(CCC1)C(=O)[C@H]1N(C[C@H](C1)O)C(=O)OC(C)(C)C | C13H22N2O4
